US08124606B2
Compound 89B: (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one:
(R)-methyl 6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazine-3-carboxylate (887 mg, 3.18 mmol) was taken up in tetrahydrofuran (40 mL) in an inert environment. To the stirred suspension at room temperature was added NaH (191 mg, 4.76 mmol, 60% dispersion in mineral oil) and stirred 30 minutes. The reaction was then cooled to −45° C. and lithium aluminum hydride (4.76 mL, 2M in THF) was added. The reaction was stirred at a temperature between −20 and −10° C. for 1 hour. The reaction was then cooled back to −78° C. and methanol (5 ml) followed by water (1 ml) was added. The reaction was allowed to stir at ambient temperature for 2 hours and then poured into ethyl acetate (400 ml) and water (100 ml). The biphasic mixture was stirred vigorously and then filtered through a medium frit. The filtrate was collected. The layers were separated and the aqueous phase was extracted with ethyl acetate (1×100 ml). The organic layers were combined, washed with brine (100 ml), and concentrated to yield 710.8 mg (89%) of the title compound as a white solid. [M+H] calc'd for C11H13N3O2S, 252. found, 252.

reactant | (R)-methyl 6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazine-3-carboxylate | 3.18 mmol, 887 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCSC2 | C12H13N3O3S
reactant | NaH | 4.76 mmol, 191 mg | [H-].[Na+]
reactant | lithium aluminum hydride | 2M, 4.76 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
product | (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one | 710.8 mg, 89% | OCC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O | C11H13N3O2S
